US08445674B2
B) 3-{4-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-propionic acid ethyl ester
A suspension of 4.00 g (12.77 mmol) of 1-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-[1,4]diazepan-5-one and 1.63 ml (12.77 mmol) of ethyl 3-bromopropionate in 60 ml of DMF was treated at 0° C. with 0.61 g (14.05 mmol) of NaH (55% in oil) in two portions. The suspension was stirred after 30 min at RT to get a solution and further stirred over night at 0° C. The reaction was neutralized with cold aqueous 10% KHSO4 and extracted with EtOAc (3×). The organic phases were washed with aqueous 10% NaCl, dried over Na2SO4 evaporated and crystallized (dichloromethane/MeOH) to yield 3.71 g (70%) of the titled compound as an off-white solid. MS: 413.1 (MH+, 2Cl).

reactant | 1-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-[1,4]diazepan-5-one | 12.77 mmol, 4.00 g | ClC=1C=C(C=CC1Cl)/C=C/C(=O)N1CCNC(CC1)=O | C14H14Cl2N2O2
reactant | ethyl 3-bromopropionate | 12.77 mmol, 1.63 ml | BrCCC(=O)OCC | C5H9BrO2
reactant | NaH | 14.05 mmol, 0.61 g | [H-].[Na+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 3-{4-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-propionic acid ethyl ester | 3.71 g, 70% | C(C)OC(CCN1CCN(CCC1=O)C(\C=C\C1=CC(=C(C=C1)Cl)Cl)=O)=O | C19H22Cl2N2O4
